US09034880B2
Preparation of 8-chloro-2,3,4,5-tetrahydro-2-methyl-5-(2-(quinolin-3-yl)ethyl)-1H-pyrido[4,3-b]indole (Compound 422)
The title compound is prepared from a mixture of 8-chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole, 3-vinylquinoline and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 8-chloro-2,3,4,5-tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | ClC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13ClN2
reactant | 3-vinylquinoline | C(=C)C=1C=NC2=CC=CC=C2C1 | C11H9N
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 8-chloro-2,3,4,5-tetrahydro-2-methyl-5-(2-(quinolin-3-yl)ethyl)-1H-pyrido[4,3-b]indole | ClC1=CC=2C3=C(N(C2C=C1)CCC=1C=NC2=CC=CC=C2C1)CCN(C3)C | C23H22ClN3
